US08835627B2
N-{2-[2-(cyanomethyl)-4,5-dimethoxyphenyl]ethyl}-2,2,2-trifluoroacetamide
In a three-necked flask stir, at ambient temperature, a suspension of sodium cyanide (9.8 g, 200 mmoles) in 160 mL of DMSO. Add to the suspension, dropwise, a solution of N-{2-[2-(chloromethyl)-4,5-dimethoxyphenyl]ethyl}-2,2,2-trifluoroacetamide (26 g, 798 mmoles) in 80 mL of DMSO. After being in contact for 1 hour 30 minutes at ambient temperature, hydrolyse the mixture using 300 mL of water and extract the mixture with dichloromethane (3×150 mL). Combine the organic phases and wash them with 10% aqueous solution of NaOAc (150 mL) and saturated aqueous NaCl solution (4×150 mL), then dry them over MgSO4 and carry out drying in vacuo. The product obtained is recrystallised from toluene (66 mL) to obtain 12.8 g of a white powder corresponding to the title compound.

reactant | sodium cyanide | 200 mmoles, 9.8 g | [C-]#N.[Na+]
reactant | N-{2-[2-(chloromethyl)-4,5-dimethoxyphenyl]ethyl}-2,2,2-trifluoroacetamide | 798 mmoles, 26 g | ClCC1=C(C=C(C(=C1)OC)OC)CCNC(C(F)(F)F)=O | C13H15ClF3NO3
reactant | water | 300 mL | O | H2O
solvent | DMSO | 160 mL | CS(=O)C | C2H6OS
solvent | DMSO | 80 mL | CS(=O)C | C2H6OS
product | N-{2-[2-(cyanomethyl)-4,5-dimethoxyphenyl]ethyl}-2,2,2-trifluoroacetamide | 12.8 g, Yield: 51% | C(#N)CC1=C(C=C(C(=C1)OC)OC)CCNC(C(F)(F)F)=O | C14H15F3N2O3
